US06503907B2
195 mg (0.5 mmol) 5-(6-Bromo-hexyloxy)-1-(4-fluoro-phenyl)-1H-indole in 2.5 ml DMF were treated with 185 mg (1 mmol) cyclopropyl-methyl amine·CF3CO2H and 96 mg (2 mmol, 50% in mineral oil) NaH at RT for 2 h and at 60° C. for 3 h. At RT, ether and water were added and the inorganic phase was extracted with ether. The combined organic phases were washed with water, dried over Na2SO4 and evaporated. Purification on silica gel with hexane/ether 1:1 yielded 140 mg (73%) Cyclopropyl-{6-[1-(4-fluoro-phenyl)-1H-indol-5-yloxy]-hexyl}-methyl-amine as light yellow oil, MS: 381 (MH+).

reactant | 5-(6-Bromo-hexyloxy)-1-(4-fluoro-phenyl)-1H-indole | 0.5 mmol, 195 mg | BrCCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C20H21BrFNO
reactant | NaH | 2 mmol, 96 mg | [H-].[Na+]
reactant | ether | CCOCC | C4H10O
reactant | water | O | H2O
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | Cyclopropyl-{6-[1-(4-fluoro-phenyl)-1H-indol-5-yloxy]-hexyl}-methyl-amine | 140 mg, 73% | C1(CC1)N(C)CCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C24H29FN2O
